US06936612B2
4-[6-(8-Cyclopentyl-6-isobutoxy-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester (0.067 g, 0.119 mmol) was dissolved in chloroform (5 ml), cooled to 0° C. This solution was purged with anhydrous hydrogen chloride gas and stoppered for 3 hours. Diethyl ether was added to the mixture giving a precipitate that was filtered and dried in vacuo to provide 8-cyclopentyl-6-isobutoxy-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride as a solid (0.056 g). MS (APCI); M++1: Calc'd, 464.5. Found, 464.3. Analyses for C25H33N7O2.1.0 H2O.2.0HCl: Calc'd: C, 54.15; H, 6.72; N, 17.68; Cl (ionic), 12.78; H2O, 3.25. Found: C, 54.18; H, 6.98; N, 17.51; Cl (ionic), 12.15; H2O, 2.60.

reactant | 4-[6-(8-Cyclopentyl-6-isobutoxy-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-piperazine-1-carboxylic acid tert-butyl ester | 0.119 mmol, 0.067 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=CC1)NC=1N=CC2=C(N1)N(C(C(=C2)OCC(C)C)=O)C2CCCC2 | C30H41N7O4
reactant | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 8-cyclopentyl-6-isobutoxy-2-(5-piperazin-1-yl-pyridin-2-ylamino)-8H-pyrido[2,3-d]pyrimidin-7-one hydrochloride | 0.056 g | Cl.C1(CCCC1)N1C(C(=CC2=C1N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)OCC(C)C)=O | InChI=1S/C25H33N7O2.ClH/c1-17(2)16-34-21-13-18-14-28-25(30-23(18)32(24(21)33)19-5-3-4-6-19)29-22-8-7-20(15-27-22)31-11-9-26-10-12-31;/h7-8,13-15,17,19,26H,3-6,9-12,16H2,1-2H3,(H,27,28,29,30);1H
